US07501544B2
Preparation of 3-(2-methoxyethoxymethyl-6-trifluoromethyl-pyridin-3-ylcarbonyloxy)-cyclohex-2-en-1-one
To a mixture of 157 mg (1.15 mmol) of 3-chlorocyclohex-2-en-1-one, 16 mg (0.12 mmol) of ZnCl2, 324 mg (1.15 mmol) of 2-methoxyethoxymethyl-6-trifluoromethylnicotinic acid (preparation described in WO 2001094339) and 2 ml of toluene there are added dropwise, under a nitrogen atmosphere, over the course of 15 minutes, 166 mg (1.27 mmol) of diisopropylethylamine. A further 2 ml of toluene are then added and, with stirring, the reaction mixture is maintained under moderate reflux for 18 hours in an oil bath. The reaction mixture is then brought to ambient temperature and 30 ml of dichloromethane and 20 ml of water are added. The organic phase is separated off and washed twice with 0.1M hydrochloric acid (20 ml) and twice with water (10 ml). After drying using magnesium sulfate and concentration in vacuo, 226 mg of 3-(2-methoxyethoxymethyl-6-trifluoromethyl-pyridin-3-ylcarbonyloxy)-cyclohex-2-en-1-one are obtained in the form of an orange-brown oil.

reactant | 3-chlorocyclohex-2-en-1-one | 1.15 mmol, 157 mg | ClC1=CC(CCC1)=O | C6H7ClO
reactant | 2-methoxyethoxymethyl-6-trifluoromethylnicotinic acid | 1.15 mmol, 324 mg | COCCOCC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C11H12F3NO4
reactant | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
reactant | diisopropylethylamine | 1.27 mmol, 166 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
catalyst | ZnCl2 | 0.12 mmol, 16 mg | [Cl-].[Cl-].[Zn+2]
solvent | water | 20 ml | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-(2-methoxyethoxymethyl-6-trifluoromethyl-pyridin-3-ylcarbonyloxy)-cyclohex-2-en-1-one | COCCOCC1=NC(=CC=C1C(=O)OC1=CC(CCC1)=O)C(F)(F)F | C17H18F3NO5
